US07834190B2
Production of (2S,3S)-3-amino-2-hydroxy-hexanoic cyclopropylamide hydrochloride
(4S,5S)—N-Cyclopropyl-2-isopropyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxamide (3.11 g, 8.7 mmol), acetone (15 ml) and concentrated hydrochloric acid (1.39 g, 1.5 equivalents) were mixed, and the mixture was stirred at 50° C. for 39 hours. The solvent was evaporated away under reduced pressure. Isopropanol (10 ml) was added, and the mixture was concentrated. The same operation was repeated again. Methanol (2.7 ml) was added to the obtained solid, and the mixture was stirred at 60° C. for 1 hour. Ethyl acetate (20 ml) was gradually added thereto dropwise. After the addition, the mixture was gradually cooled to 5° C. The precipitated crystal was collected by filtration, and dried under reduced pressure to obtain the title compound as a white crystal (1.36 g, yield: 72%).

reactant | (4S,5S)—N-Cyclopropyl-2-isopropyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxamide | 8.7 mmol, 3.11 g | C1(CC1)NC(=O)[C@@H]1[C@@H](N=C(O1)C(C)C)CCC | C13H22N2O2
reactant | hydrochloric acid | 1.39 g, 1.5 equivalents | Cl | ClH
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | (2S,3S)-3-amino-2-hydroxy-hexanoic cyclopropylamide hydrochloride | 1.36 g, yield: 72% | Cl.C1(CC1)NC([C@H]([C@H](CCC)N)O)=O | InChI=1S/C9H18N2O2.ClH/c1-2-3-7(10)8(12)9(13)11-6-4-5-6;/h6-8,12H,2-5,10H2,1H3,(H,11,13);1H/t7-,8-;/m0./s1
